US08492401B2
Preparation of 2-phenyl-5-(pyrrolidin-1-ylmethyl)oxazole-4-carboxylic acid
The title compound was prepared by the procedure described for 5-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)-2-phenylthiazole-4-carboxylic acid substituting pyrrolidine for t-butyl piperazine-1-carboxylate in 38% yield.

reactant | 5-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)-2-phenylthiazole-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(N=C(S1)C1=CC=CC=C1)C(=O)O | C20H25N3O4S
reactant | t-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | 2-phenyl-5-(pyrrolidin-1-ylmethyl)oxazole-4-carboxylic acid | 38% yield | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)CN1CCCC1 | C15H16N2O3
